US05858995
A mixture of 3-chloromethyl-2-methyl-7-nitrobenzo[b]furan (410 mg) and potassium phthalimide (506 mg) in N,N-dimethylformamide (10 ml) was stirred at ambient temperature for 3 hours. Then, the mixture was poured into cold water and the separated solid was collected, washed with water and dried to give 2-methyl-7-nitro-3-phthalimidomethylbenzo[b]furan (585 mg).

reactant | 3-chloromethyl-2-methyl-7-nitrobenzo[b]furan | 410 mg | ClCC=1C2=C(OC1C)C(=CC=C2)[N+](=O)[O-] | C10H8ClNO3
reactant | potassium phthalimide | 506 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-methyl-7-nitro-3-phthalimidomethylbenzo[b]furan | 585 mg | CC1=C(C2=C(O1)C(=CC=C2)[N+](=O)[O-])CN2C(C=1C(C2=O)=CC=CC1)=O | C18H12N2O5
